US03933913
To a solution of 7.5 g. (0.01 m.) of N,N'-dibenzyl-N,N'-bis[2-(3-amino-4-benzyloxyphenyl)-ethyl]-hexamethylene-diamine in 30 ml. of pyridine is added 2.5 g. of methanesulfonyl chloride. The reaction mixture is allowed to stand at room temperature overnight and is then added to excess water to yield N,N'-dibenzyl-N,N'-bis[2-(4-benzyloxy-3-methanesulfonamidophenyl)-ethyl]-hexamethylenediamine.

reactant | N,N'-dibenzyl-N,N'-bis[2-(3-amino-4-benzyloxyphenyl)-ethyl]-hexamethylene-diamine | C(C1=CC=CC=C1)N(CCCCCCN(CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)N)CC1=CC=CC=C1)CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)N | C50H58N4O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | N,N'-dibenzyl-N,N'-bis[2-(4-benzyloxy-3-methanesulfonamidophenyl)-ethyl]-hexamethylenediamine | C(C1=CC=CC=C1)N(CCCCCCN(CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)CC1=CC=CC=C1)CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C | C52H62N4O6S2
